US07378418B2
282E. Preparation of 7-(4-Methoxyphenyl)-8-(pyridine-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The title compound was prepared by reacting 1-(5-(4-methoxyphenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine with carbonyldiimidazole (CDI) by procedures analogous to those described in Example 279F to give 7-(4-methoxyphenyl)-8-(pyridine-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one. LC/MS (method A): RT=1.37 min, (M+H)+=320.

reactant | 1-(5-(4-methoxyphenyl)-4-(pyridin-4-yl)pyridazin-3-yl)hydrazine | COC1=CC=C(C=C1)C=1C(=C(N=NC1)NN)C1=CC=NC=C1 | C16H15N5O
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 7-(4-methoxyphenyl)-8-(pyridine-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | COC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C17H13N5O2
